US09340546B2
1-methylpiperazine (265.5 mg, 294.0 mL, 2.651 mmol) in THF (5 mL) was added to a stirred suspension of 4-chloro-5-nitro-pyridin-2-amine (400 mg, 2.305 mmol) and DIPEA (357.5 mg, 481.8 mL, 2.766 mmol) in THF (10 mL) at 0° C. under an atmosphere of nitrogen. The reaction was allowed to stir at ambient temperature for 90 hours before the solvent removed in vacuo. The residue was tritruated from DCM/MeOH and the resultant precipitate was washed with DCM/MeOH solutions. The filtrate was concentrated in vacuo and the residue was purified by column chromatography (ISCO Companion, 40 g column, eluting with 0 to 10% 2M NH3 in MeOH/DCM) to give 4-(4-methylpiperazin-1-yl)-5-nitro-pyridin-2-amine as a yellow solid (355 mg, 65% Yield). MS (ES+) 238.1.

reactant | 1-methylpiperazine | 2.651 mmol, 294.0 mL, 265.5 mg | CN1CCNCC1 | C5H12N2
reactant | 4-chloro-5-nitro-pyridin-2-amine | 2.305 mmol, 400 mg | ClC1=CC(=NC=C1[N+](=O)[O-])N | C5H4ClN3O2
reactant | DIPEA | 2.766 mmol, 481.8 mL, 357.5 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(4-methylpiperazin-1-yl)-5-nitro-pyridin-2-amine | 355 mg, 65% Yield | CN1CCN(CC1)C1=CC(=NC=C1[N+](=O)[O-])N | C10H15N5O2
